US08664408B2
Step C: cis-Octahydrocyclopenta[c]pyrrole hydrochloride
2 g of cis-octahydrocyclopenta[c]pyrrole are dissolved in 10 mL of ethanol in a flask. The solution is cooled to 0° C., and there are then added 1.64 mL of concentrated hydrochloric acid solution (11M). The reaction mixture is stirred at 20° C. for 30 minutes before being concentrated under reduced pressure. The reaction mixture is stirred in methyl tert-butyl ether at 0° C. The product is isolated by filtration in the form of a solid in a yield of 83% and with a chemical purity of 99%.

reactant | cis-octahydrocyclopenta[c]pyrrole | 2 g | C1NC[C@H]2[C@@H]1CCC2 | C7H13N
reactant | hydrochloric acid | 11M, 1.64 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | cis-Octahydrocyclopenta[c]pyrrole hydrochloride | yield of 83% | Cl.C1NC[C@H]2[C@@H]1CCC2 | InChI=1S/C7H13N.ClH/c1-2-6-4-8-5-7(6)3-1;/h6-8H,1-5H2;1H/t6-,7+;
